2137-11-19 07:43:00 Physician Resident Progress Note
Chief Complaints: Altered mental status
   Mrs. [**Known lastname **] is a 72 year-old woman with alpha 1 anti-trypsin deficiency
   resulting in cirrhosis and varices, presenting with altered mental
   status attributed hepatic encephalopathy.  While on the floor she bled
   briskly with varices identified on EGD as the source.  [**Last Name (un) 1048**]
   placed.
   24 Hour Events:
   HCT
   1400- 31.1, 1800 - 32.4, 2400 - 33.3
   Bleeding had not recurred, [**First Name8 (NamePattern2) **] [**Last Name (un) 1048**] device removed.  Hematocrit has
   been stable.
   Antibiotics
   Levo/Flagyl stopped, continued on Ceftriaxone.
   Hepatology
   No scope unless bleeding restarts. Continue Ceftriaxone; stop
   octreotide gtt in the AM.
   CT Torso
   Preliminary, Borderline low-lying endotracheal tube. Left greater than
   right small pleural effusions and atelectasis. Ascites but no evidence
   of intraperitoneal hemorrhage. Cirrhosis.
   Midazolam stopped, Only on Fentanyl for sedation.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2137-11-18**] 10:17 AM
   Ceftriaxone - [**2137-11-18**] 02:19 PM
   Metronidazole - [**2137-11-19**] 05:50 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-11-18**] 08:20 PM
   Other medications:
   Changes to medical and family history:
   None.
   HPI:
   Mrs. [**Known lastname **] is a 72 year old female with a history of cirrhosis secondary
   to alpha-1 anti-trypsin disease c/b encephalopathy and varices (never
   bled in the past), COPD, and type 2 diabetes who presented on [**11-10**]
   with AMS presumed due to hepatic encephalopathy, now admitted to the
   MICU with upper GI bleeding. This evening she had a bloody stool
   followed by hematemesis of 2 cupfuls of blood. She remained
   hemodynamically stable (BP 100s, HR 80s). An NG tube was placed and
   lavage revealed blood and clot that did not clear after 300 cc's. HCT
   returned at 29.6 (from 33.6). She was transferred to the ICU for urgent
   endoscopy.
   .
   On arrival to the ICU, she endorsed some lightheadedness, but denied CP
   or SOB. Denied prior variceal bleeding. A 3rd PIV was placed and the
   first unit of PRBCs was hung. She was consented for EGD, but as the
   procedure was beginning, she vomited a very large amount of BRB and
   clot. BP dropped to 80s/40s. 2 more units were rapidly transfused and
   she was urgently intubated for airway protection. Peripheral
   phenylephrine was also briefly started. After a total of 5 units of
   pRBCs were tranfused, BP had improved to 150s, so phenylephrine easily
   turned off. Repeat endoscopy showed continued blood welling up into the
   esophagus and filling the stomach, unable to visualize/treat varices
   due to amount of blood. The procedure was aborted and [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 1048**] tube
   was placed. IR and anesthesia were then consulted for urgent TIPS.
   .
   Of note, her hospital course has been significant for a 5L paracentesis
   performed [**11-12**] (negative for SBP), and [**11-25**] positive blood cultures
   from [**11-13**] (presumed contaminant), and possible PNA for which she was
   intially started on broad spectrum antibiotics, more recently tapered
   down to just levofloxacin.
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-11-19**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 87 (81 - 89) bpm
   BP: 103/52(69) {98/43(62) - 126/59(82)} mmHg
   RR: 9 (8 - 22) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 72.4 kg (admission): 65.8 kg
    CVP: 17 (7 - 17)mmHg
   Total In:
                                                                  3,772 mL
                                                                    280 mL
   PO:
   TF:
   IVF:
                                                                  2,022 mL
                                                                    280 mL
   Blood products:
                                                                  1,750 mL
   Total out:
                                                                  4,505 mL
                                                                    490 mL
   Urine:
                                                                  1,145 mL
                                                                    250 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                   -733 mL
                                                                   -210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 784 (687 - 785) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 8
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 18
   PIP: 11 cmH2O
   Plateau: 14 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/32/106/22/-2
   Ve: 5.9 L/min
   PaO2 / FiO2: 265
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   170 K/uL
   11.8 g/dL
   158 mg/dL
   1.1 mg/dL
   22 mEq/L
   4.9 mEq/L
   59 mg/dL
   104 mEq/L
   135 mEq/L
   33.2 %
   18.0 K/uL
        [image002.jpg] Ca 8.5  Mg 2.1  Ph 3.0
   ABG 7.41  32  106  21  -2         PT 20.2   PTT 36.5   INR 1.9
                            [**2137-11-18**]  05:02 AM
                            [**2137-11-18**]  06:25 AM
                            [**2137-11-18**]  07:12 AM
                            [**2137-11-18**]  08:15 AM
                            [**2137-11-18**]  10:17 AM
                            [**2137-11-18**]  01:44 PM
                            [**2137-11-18**]  06:21 PM
                            [**2137-11-18**]  11:38 PM
                            [**2137-11-19**]  02:41 AM
                            [**2137-11-19**]  04:47 AM
   WBC
   19.9
   19.8
   18.0
   Hct
   32.3
   30.9
   31.1
   32.4
   33.3
   33.2
   Plt
   157
   175
   170
   Cr
   1.1
   1.1
   TCO2
   24
   24
   25
   21
   Glucose
   [**Telephone/Fax (3) 10736**]
   Other labs: PT / PTT / INR:20.3/36.5/1.9, CK / CKMB /
   Troponin-T:58//0.02, ALT / AST:142/347, Alk Phos / T Bili:128/2.6,
   Amylase / Lipase:39/65, Differential-Neuts:85.4 %, Lymph:10.5 %,
   Mono:3.8 %, Eos:0.1 %, Fibrinogen:222 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.3 g/dL, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:3.0 mg/dL
   CT
 no intraabdominal or mediastinal hematoma.
   Blood culture: [**2137-11-13**] Coag. negative Staph. (only in one set)
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
   This is a 72 year old female with alpha 1 antitrypsin deficiency
   leading to cirrhosis and varices who was admitted for progressive
   decline in mental status for one month, hospital course complicated by
   PNA, who is now transferred to the ICU for upper GI bleeding.
   # UGIB
 Although other diagnoses were entertained, brisk variceal
   bleeding was seen on EGD.  Hypovolemic shock was short-lived and
   resolved with aggressive transfusion. Hct has been stable at around
   33.  Had TIPS and [**Last Name (un) 1048**].
   -- current access is 3 PIVs
   -- will remove trauma line today
   -- q8h HCT
   -- Stop octreotide (per GI)
   -- IV pantoprazole q12
   -- Stop levofloxacin for GIB SBP ppx
 patient continued on ceftriaxone
   -- Stop flagyl
   -- hold ASA and SQ heparin for now
   -- Trial 5 mg more of vitamin K
   -- [**Last Name (un) 1048**] tube removed
   # Respiratory failure - intubated for airway protection in setting of
   large UGIB, which can now be removed given stability.
   -- Extubate today
   # OSA
   -- Placed patient on 8 cm H2O for CPAP (settings used at last visit)
   # PNA: Blood cx from [**11-13**] were positive 48 hours later with coag neg
   staph [**11-25**] bottle, prompting vanc/cefepime/levo initiated on [**11-13**].
   stopped cefepime ([**11-15**]) and vanc ([**11-17**]), then to  levo and flagyl.
   Now stopped and on ceftriaxone.
   --Stop flagyl and levo
   -- Continue ceftriaxone
   # Hepatic Encephalopathy - had resolved prior to ICU transer
   -- restart lactulose when taking POs with goal 3 BMs daily
   # Sedation and analgesia
   -- Stopped fentanyl today to assist spontaneous respiration, lift
   sedation and assist oral intake.
   # Cirrhosis - Likely secondary to alpha-1 antitrypsin deficiency with
   possible autoimmune component (anti-smooth muscle antibody positive).
   No evidence of SBP on diagnostic paracentesis x 2 (last on [**11-12**]). MELD
   score 16. Of note, ascitic protein < 1 mg/dL, putting her at increased
   risk for SBP.
   -- Stop levoflox (for SBP ppx)
   -- lactulose when taking POs
   # Renal failure - admission Creatinine 1.5, now 1.1.
   -- trend Cr
   -- avoid nephrotoxins
   # COPD - lungs do not appear hyperinflated on CXR.  Therefore
   predominantly liver disease with her alpha-1 anti-trypsin deficiency
   -- obtain PFTs from OSH
   -- albuterol/atrovent MDIs
   # Diabetes, type 2 - Patient was told to stop her detemir and
   glyburide. Per daughter, recent [**Name (NI) 10714**] 7%
   -- [**Name2 (NI) 10715**] fs, continue ISS for elevated BSs, DM diet when eating
   -- Tightened ISS today
   # Hypertension - Per daughter, prior anti-hypertensives stopped as
   patient was getting lightheaded and falling.
   -- continue to hold furosemide and spironolactone
   # Hyperlipidemia
   -- Restart simvastatin 80 mg daily, when taking POs
   # Dry eyes
 Artificial tears.
   # Obstructive sleep apnea - unclear how diagnosis was made, what home
   ventilator settings are. Will try to obtain OSH records in AM.
   # Osteoporosis -
   -- cont. calcium and vitamin D
   # FEN:
   -- Trial POs if mental status sufficient, now that [**Last Name (un) 1048**] removed.
   -- replete electrolytes prn, attn to calcium
   # Prophylaxis:
   -- DVT ppx with pneumoboots, no heparin (given recent bleed)
   -- Bowel regimen with lactulose  - has not been receiving (when
   tolerating POs)
   # Access:
   -- 3 peripherals
   -- Remove trauma line today
   # Code:
   -- full
   # Communication: Patient
   -- Daughter, [**Name (NI) 107**] [**Last Name (NamePattern1) 5507**] (HCP) [**Telephone/Fax (1) 10716**]
   # Dispo
   -- ICU for now.  When stable to floor service
   ICU Care
   Nutrition: NPO for now- will re-introduce liquids and medications.
   Glycemic Control:  ISS and fixed dose
   Lines:
   20 Gauge - [**2137-11-17**] 10:41 PM
   18 Gauge - [**2137-11-17**] 10:41 PM
   Arterial Line - [**2137-11-18**] 01:00 AM
   [**First Name4 (NamePattern1) 549**] [**Last Name (NamePattern1) **] - [**2137-11-18**] 05:00 AM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments: Daughter, [**Name (NI) 107**] [**Last Name (NamePattern1) 5507**] (HCP) [**Telephone/Fax (1) 10716**]
   Code status:  FULL CODE
   Disposition:  ICU for now.  [**Doctor Last Name **]-[**Doctor Last Name **] when stable.

2137-11-20 06:47:00 Physician Resident Progress Note
Chief Complaint: 72 yof with h/o cirrhosis  [**12-24**] A1AT disease c/b
   encephalopathy  and varices transferred to MICU for massive UGIB now
   s/p emergent TIPS.
   24 Hour Events:
   - Hematocrit stable and no further bleeding, Octreotide gtt stopped and
   [**Last Name (un) 1048**] removed.
   - Sedation discontinued and patient successfully extubated
   - Able to take meds (crushed in apple sauce) and lactulose PO at 8 p.m.
   (eventual goal to stool 3 x d).
   - Abdominal US performed, results pending.
   - Needs Speech and Swallow evaluation in the a.m.
   Allergies:
   Sulfa (Sulfonamide Antibiotics)
   Rash;
   Adhesive Tape (Topical)
   Rash;
   Last dose of Antibiotics:
   Levofloxacin - [**2137-11-18**] 10:17 AM
   Metronidazole - [**2137-11-19**] 05:50 AM
   Ceftriaxone - [**2137-11-19**] 03:20 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2137-11-19**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2137-11-20**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.7
C (98
   HR: 92 (84 - 92) bpm
   BP: 90/49(64) {90/45(61) - 127/63(87)} mmHg
   RR: 10 (9 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 69.8 kg (admission): 65.8 kg
   Height: 62 Inch
    CVP: 13 (4 - 18)mmHg
   Total In:
                                                                    661 mL
                                                                    314 mL
   PO:
                                                                    120 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    541 mL
                                                                    134 mL
   Blood products:
   Total out:
                                                                  1,235 mL
                                                                    205 mL
   Urine:
                                                                    995 mL
                                                                    205 mL
   NG:
                                                                    240 mL
   Stool:
   Drains:
   Balance:
                                                                   -574 mL
                                                                    109 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 0 (0 - 784) mL
   PS : 5 cmH2O
   RR (Spontaneous): 15
   PEEP: 0 cmH2O
   FiO2: 60%
   RSBI: 16
   PIP: 11 cmH2O
   SpO2: 93%
   ABG: 7.43/36/67/22/0
   Ve: 6.8 L/min
   PaO2 / FiO2: 168
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   195 K/uL
   11.8 g/dL
   135 mg/dL
   0.9 mg/dL
   22 mEq/L
   4.8 mEq/L
   62 mg/dL
   106 mEq/L
   139 mEq/L
   34.7 %
   17.5 K/uL
        [image002.jpg]
                            [**2137-11-18**]  01:44 PM
                            [**2137-11-18**]  06:21 PM
                            [**2137-11-18**]  11:38 PM
                            [**2137-11-19**]  02:41 AM
                            [**2137-11-19**]  04:47 AM
                            [**2137-11-19**]  01:21 PM
                            [**2137-11-19**]  01:30 PM
                            [**2137-11-19**]  09:40 PM
                            [**2137-11-20**]  03:46 AM
                            [**2137-11-20**]  04:04 AM
   WBC
   19.8
   18.0
   17.5
   Hct
   31.1
   32.4
   33.3
   33.2
   33.9
   31.8
   34.7
   Plt
   175
   170
   195
   Cr
   1.1
   1.1
   0.9
   TCO2
   21
   26
   25
   Glucose
   164
   158
   135
   Other labs: PT / PTT / INR:20.3/36.5/1.9, CK / CKMB /
   Troponin-T:58//0.02, ALT / AST:142/347, Alk Phos / T Bili:128/2.6,
   Amylase / Lipase:39/65, Differential-Neuts:85.4 %, Lymph:10.5 %,
   Mono:3.8 %, Eos:0.1 %, Fibrinogen:222 mg/dL, Lactic Acid:2.3 mmol/L,
   Albumin:3.3 g/dL, Ca++:8.8 mg/dL, Mg++:2.4 mg/dL, PO4:3.0 mg/dL
   Microbiology
   - [**11-13**]: blood
 CONA x 1 set
   - [**11-16**]: blood
 pending
   - [**11-17**]: blood
 pending
   Radiology
   - [**11-19**]: CXR
 persistent, unchanged retrocardiac opacity, kinked right
   IJ catheter
   - [**11-19**]: AUS
 pending
   Assessment and Plan: 72 yof with h/o cirrhosis  [**12-24**] A1AT disease c/b
   encephalopathy  and varices transferred to MICU for massive UGIB now
   s/p emergent TIPS.
   # UGIB
 massive UGIB [**12-24**] esophogeal varices, now s/p emergent TIPS on
   [**11-18**] with stable HCT.
   - monitoring: change to [**Hospital1 **] HCT
   - medications: IV PPI [**Hospital1 **] (may switch to PO today), ceftriaxone for GIB
   SBP ppx
   - f/u AUS to confirm TIPS patency
   .
   # Cirrhosis
 [**12-24**] A1AT deficiency with possible autoimmune component
   (anti-smooth muscle antibody positive). No evidence of SBP on
   diagnostic paracentesis x 2 (last on [**11-12**]). MELD score 16.
   - CTX for SBP prophylaxis
   - management of encephalopathy as discussed below
   .
   # Hepatic Encephalopathy - had resolved prior to ICU transer
   - PO / PR lactulose titrated to TID BM
   .
   # OSA
   - home CPAP settings
   .
   # PNA: patient afebrile without convincing evidence on CXR, empiric
   treatment with Cefepime stopped on [**11-15**], Vancomycin on [**11-17**], Flagyl
   on [**11-18**]
 partially coverage with CTX for SBP ppx
   - monitor with QOD CXR
   - monitor WBC and fever curve
    .
   # DM2: SSI with long acting basal lantus
   .
   # Hypertension: continue to hold in setting of normal BP and recent
   massive UGIB
   .
   # Hyperlipidemia: restart simvastatin 80 mg daily
   .
   # Osteoporosis: cont. calcium and vitamin D supplementation
   .
   # FEN: IVF PRN for goal UOP > 30 / hr, daily electrolytes with
   repletion, slowly advance diet
   .
   # Prophylaxis: pneumoboots, lactulose, IV/PO PPI
   .
   # Access: 2 peripherals, arterial, dc trauma line
   .
   # Code: full
   .
   # Communication: Patient:  Daughter, [**Name (NI) 107**] [**Last Name (NamePattern1) 5507**] (HCP) [**Telephone/Fax (1) 10716**]
   .
   # Dispo: to [**Doctor Last Name **] [**Doctor Last Name **]